US08748624B2
STEP A: 5-chloro-2-methoxy-4-(trifluoromethyl)benzaldehyde
A 1.61 M hexanes solution of n-BuLi (18.7 mL, 30.1 mmol) was added to a −78° C. diethyl ether solution (45 mL) of 1-chloro-4-methoxy-2-(trifluoromethyl)benzene (5.3 g, 25.1 mmol) and TMEDA (4.5 mL, 30.1 mmol). After 30 min at −78° C. the reaction was transferred to an ice bath and stirred at 0° C. After 5 min DMF (5.0 mL, 65.0 mmol) was added and the reaction was maintained in the ice bath. After 2 hrs at 0° C. 6 M aqueous HCl (aq) (17.0 mL, 102 mmol) was added and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with 4 M NaCl and 5 M K2CO3, dried (Na2SO4), and concentrated to yield the title compound, which was used in the next step without further purification.

reactant | n-BuLi | 30.1 mmol, 18.7 mL | [Li]CCCC
reactant | 1-chloro-4-methoxy-2-(trifluoromethyl)benzene | 25.1 mmol, 5.3 g | ClC1=C(C=C(C=C1)OC)C(F)(F)F | C8H6ClF3O
reactant | TMEDA | 30.1 mmol, 4.5 mL | CN(C)CCN(C)C | C6H16N2
reactant | DMF | 65.0 mmol, 5.0 mL | CN(C)C=O | C3H7NO
reactant | HCl | 102 mmol, 6 M, 17.0 mL | Cl | ClH
solvent | diethyl ether | 45 mL | C(C)OCC | C4H10O
product | 5-chloro-2-methoxy-4-(trifluoromethyl)benzaldehyde | ClC=1C(=CC(=C(C=O)C1)OC)C(F)(F)F | C9H6ClF3O2
